US08486952B2
A mixture of 2-(3,5-difluorophenyl)cyclopentanone (4.765 g, 24.29 mmol) and carbonisocyanatidic chloride (4.61 g, 43.7 mmol) was heated at 58° C. for 1 h and at 130° C. for 2 h. Upon cooling to room temperature, the reaction mixture was dissolved in ethyl acetate and washed with saturated aqueous solution of sodium bicarbonate. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give 7-(3,5-difluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione (700 mg, 2.64 mmol, 10.87% yield). LC-MS (M+H)+=266.1. 1H NMR (500 MHz, CDCl3) δ ppm 8.79 (1H, br s), 6.68-6.86 (3H, m), 4.22 (1H, br s), 2.87 (1H, dt, J=7.0, 4.4 Hz), 2.63-2.82 (2H, m), 2.15 (1H, br s).

reactant | 2-(3,5-difluorophenyl)cyclopentanone | 24.29 mmol, 4.765 g | FC=1C=C(C=C(C1)F)C1C(CCC1)=O | C11H10F2O
reactant | carbonisocyanatidic chloride | 43.7 mmol, 4.61 g | C(=O)(N=C=O)Cl | C2ClNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(3,5-difluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione | 2.64 mmol, 700 mg, 10.87% yield | FC=1C=C(C=C(C1)F)C1CCC=2C(NC(OC21)=O)=O | C13H9F2NO3
